US04363865
Phthalimidomethyl anthranilate
Phthalimidomethyl o-nitrobenzoate (10 g) dissolved in a mixture of 60 ml acetic acid and 150 ml THF was hydrogenated with 10% palladium on charcoal catalyst (0.5 g) in a Parr shaker apparatus for 1 hour. The solution was filtered and the filtrate concentrated in vacuo. The crystalline product precipirated and was filtered off yielding 7.0 g, m.p. 160°-162° C.

reactant | Phthalimidomethyl o-nitrobenzoate | 10 g | [N+](=O)([O-])C1=C(C(=O)OCN2C(C=3C(C2=O)=CC=CC3)=O)C=CC=C1 | C16H10N2O6
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
solvent | THF | 150 ml | C1CCOC1 | C4H8O
catalyst | palladium on charcoal | 0.5 g | [Pd] | Pd
product | Phthalimidomethyl anthranilate | C(C=1C(N)=CC=CC1)(=O)OCN1C(C=2C(C1=O)=CC=CC2)=O | C16H12N2O4
